US07074798B2
c) 2,2-Dimethyl-propionic acid [7-benzyl-3-(2,2-dimethyl-propionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester
7-Benzylxanthine (9.54 g) was dissolved in N,N-dimethylformamide (250 ml), and potassium carbonate (17 g) and chloromethyl pivalate (14.2 ml) were added thereto. The reaction solution was stirred at 50° C. overnight, then diluted with ethyl acetate, and washed with water and 1 N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was removed by distillation. The residue was purified by silica gel chromatography to obtain 12.8 g of the title compound from a fraction eluted with hexane-ethyl acetate (3:2).

reactant | 7-Benzylxanthine | 9.54 g | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
reactant | potassium carbonate | 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl pivalate | 14.2 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethyl-propionic acid [7-benzyl-3-(2,2-dimethyl-propionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester | 12.8 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C24H30N4O6
